US03970654
To a solution of 3.8 g of 1-(1-adamantylmethyl)-4-phenyl-6-nitro-3,4-dihydro-2(1H)-quinazolinone in 70 ml of dioxane was added a suspension of 1.5 g of potassium permanganate in 10 ml of water and the mixture was stirred at room temperature for 3 hours. Then, 7 ml of formic acid was added and stirring was continued for 30 minutes. The brown precipitate was filtered off and the filtrate was diluted with water. The resulting mixture was extracted with chloroform. The chloroform extract was washed, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was crystallized from a mixture of ethanol and chloroform to give 1-(1-adamantylmethyl)-4-phenyl-6-nitro-2(1H)-quinazolinone, m.p. 228°- 231°C.

reactant | 1-(1-adamantylmethyl)-4-phenyl-6-nitro-3,4-dihydro-2(1H)-quinazolinone | 3.8 g | C12(CC3CC(CC(C1)C3)C2)CN2C(NC(C3=CC(=CC=C23)[N+](=O)[O-])C2=CC=CC=C2)=O | C25H27N3O3
reactant | potassium permanganate | 1.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | formic acid | 7 ml | C(=O)O | CH2O2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 1-(1-adamantylmethyl)-4-phenyl-6-nitro-2(1H)-quinazolinone | C12(CC3CC(CC(C1)C3)C2)CN2C(N=C(C3=CC(=CC=C23)[N+](=O)[O-])C2=CC=CC=C2)=O | C25H25N3O3
